US05866592
Ethyl-N-(N-(4-(4-phenyl-1-piperazinoimidoyl)-2-fluorobenzoyl)-β-ethyl-α,α-dimethyl-β-alanyl)-4-piperidineacetate
The same procedure as in Example 45 was performed with ethyl-N-(N-(4-cyano-2-fluorobenzoyl)-β-ethyl-α,α-dimethyl-β-alanyl)-4-piperidineacetate (1.48 g, 3.3 mmol) by using 1-phenylpiperazine (5.0 g) as an amine to yield the titled compound (237 mg, 12%).

reactant | ethyl-N-(N-(4-cyano-2-fluorobenzoyl)-β-ethyl-α,α-dimethyl-β-alanyl)-4-piperidineacetate | 3.3 mmol, 1.48 g | C(C)OC(CC1CCN(CC1)C(C(C(NC(C1=C(C=C(C=C1)C#N)F)=O)CC)(C)C)=O)=O | C24H32FN3O4
reactant | 1-phenylpiperazine | 5.0 g | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
product | Ethyl-N-(N-(4-(4-phenyl-1-piperazinoimidoyl)-2-fluorobenzoyl)-β-ethyl-α,α-dimethyl-β-alanyl)-4-piperidineacetate | 237 mg, 12% | C(C)OC(CC1CCN(CC1)C(C(C(NC(C1=C(C=C(C=C1)C(=N)N1CCN(CC1)C1=CC=CC=C1)F)=O)CC)(C)C)=O)=O | C34H46FN5O4
